datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](#[C:20][C:21]([C:22]([H:25])([H:26])[H:27])[C:23]([H:28])([H:29])[H:30])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20]#[C:19][H:24])([C:22]([H:25])([H:26])[H:27])[C:23]([H:28])([H:29])[H:30])[H:9],25.355
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([C:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:21])([H:22])[H:23])[H:20])[H:12])[H:11])([H:9])[H:10],18.0749
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6]([S:7][H:18])([c:8]1[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]1[H:23])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2](=[S:3])[H:17])[H:4].[C:5]([C:6]([S:7][H:18])[c:8]1[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]1[H:23])([H:14])([H:15])[H:16],66.1072
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]1([H:15])[C:5]2([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])[C:9]12[H:20])[H:14])[H:13])[H:12])([H:10])[H:11],53.9736
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([H:13])([H:14])[H:15])[C:8](=[S:9])[H:16])([H:10])([H:11])[H:12]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([C:5]([H:10])([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[C:8](=[S:9])[H:16],133.47
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11](=[C:10]([H:16])[H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:6],67.6553
[C:0]([C:1]([S:2][H:7])[H:6])([H:3])([H:4])[H:5].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12]>>[C:0]([C:1]([S:2][H:7])([H:6])[H:13])([H:3])([H:4])[H:5].[C:8](=[C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])[H:12],4.76976
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])[H:9],53.8481
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[O:10][O:11]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:5])[H:6].[H:4][O:10][O:11],202.924
[H:1].[c:2]1([H:4])[c:5]([H:6])[c:7]2[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]([H:16])[c:17]2[c:19]([H:20])[c:21]1[H:23]>>[H:1][C:17]12[C:7]([C:5]([H:6])=[C:2]([H:4])[C:21]([H:23])=[C:19]1[H:20])[C:9]([H:10])=[C:11]([H:12])[C:13]([H:14])=[C:15]2[H:16],43.329504
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:14])[H:13])([H:11])[H:12],22.3844
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:19]([C:18](=[C:17]([H:21])[H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])[H:9])([H:7])[H:8],36.5263
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[C:13]([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])([H:5])[C:13]([H:14])([H:15])[H:16],0.0
[C:0](=[S:1])([H:2])[H:3].[C:4](=[C:5][C:6](=[C:7]([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0](=[S:1])[H:3].[H:2][C:5](=[C:4]([H:8])[H:9])[C:6](=[C:7]([H:11])[H:12])[H:10],56.5677
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([C:6]([H:16])[H:17])[H:15])[H:9])([H:7])[H:8],106.232
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])([H:4])[C:10]([C:9]([H:17])([H:18])[H:19])([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20],35.8987
